US06114394
Cool a mixture of 4-[N-(t-butoxycarbonyl)-N-[(phenyl)methyl]-amino]butan-1-ol (21.8 g, 0.078 mol), methylene chloride (250 mL) and pyridine (9.7 mL). Add mesylchloride (6.65 mL, 0.086 mol) in methylene chloride (6.6 mL) dropwise to the reaction with stirring. After addition is complete, allow the reaction to warm to room temperature and stir for an additional 2 hours. Pour the reaction into methylene chloride (200 mL), rinse with 0.5 N hydrochloric acid (500 mL), saturated sodium bicarbonate (500 mL), dry over anhydrous magnesium sulfate, filter and concentrate under vacuum. Purify the residue by flash chromatography (25% ethyl acetate/hexane, silica gel) to provide 4-[N-(t-butoxycarbonyl)-N-[(phenyl)methyl]-amino]-1-methansulfonyl butane (10.7 g), Rf =0.36 eluting with 25% ethyl acetate/hexane.

reactant | 4-[N-(t-butoxycarbonyl)-N-[(phenyl)methyl]-amino]butan-1-ol | 0.078 mol, 21.8 g | C(C)(C)(C)OC(=O)N(CC1=CC=CC=C1)CCCCO | C16H25NO3
reactant | pyridine | 9.7 mL | N1=CC=CC=C1 | C5H5N
reactant | mesylchloride | 0.086 mol, 6.65 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylene chloride | 6.6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-[N-(t-butoxycarbonyl)-N-[(phenyl)methyl]-amino]-1-methansulfonyl butane | 10.7 g | C(C)(C)(C)OC(=O)N(CC1=CC=CC=C1)CCCCS(=O)(=O)C | C17H27NO4S
